US07217722B2
N-Cyclohexyl-N′-(4-pyridyl)urea
4-Aminopyridine (100 mg, 1.06 mmol) and cyclohexyl isocyanate (146.3 mg, 1.17 mmol) were dissolved in toluene, and the mixture was then stirred at 110° C. for 4 hr.

reactant | 4-Aminopyridine | 1.06 mmol, 100 mg | NC1=CC=NC=C1 | C5H6N2
reactant | cyclohexyl isocyanate | 1.17 mmol, 146.3 mg | C1(CCCCC1)N=C=O | C7H11NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-Cyclohexyl-N′-(4-pyridyl)urea | C1(CCCCC1)NC(=O)NC1=CC=NC=C1 | C12H17N3O
